US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, but using 3-amino pyridine (565 mg, 6.0 mmol) and 2-pyridyl carboxaldehyde (642 mg, 6.0 mmol), 2-(2-pyridin-3-yl-2H-tetrazol-5-yl)pyridine was obtained as an off white solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 3-amino pyridine | 6.0 mmol, 565 mg | NC=1C=NC=CC1 | C5H6N2
reactant | 2-pyridyl carboxaldehyde | 6.0 mmol, 642 mg | C1=CC=NC(=C1)C=O | C6H5NO
product | 2-(2-pyridin-3-yl-2H-tetrazol-5-yl)pyridine | N1=CC(=CC=C1)N1N=C(N=N1)C1=NC=CC=C1 | C11H8N6
